US20010006969A1
2-Chloro-4-isopropylamino-6-nitroquinazoline
To 1.00 g (4.83 mmol) of 6-nitroquinazoline-2,4 (1H,3H)-dione were added 32.90 g (0.22 mol) of phosphorus oxychloride and 0.70 ml (4.83 mmol) of diisopropylformamide, and the resulting mixture was subjected to heating under reflux for 24 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 15 ml of acetonitrile, followed by addition of 2.49 ml (29.11 mmol) of isopropylamine under ice cooling and stirring under ice cooling for 30 minutes. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 870 mg (yield: 67.5%) of the title compound.

reactant | 6-nitroquinazoline-2,4 (1H,3H)-dione | 4.83 mmol, 1.00 g | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | phosphorus oxychloride | 0.22 mol, 32.90 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylformamide | 4.83 mmol, 0.70 ml | C(C)(C)N(C=O)C(C)C | C7H15NO
reactant | isopropylamine | 29.11 mmol, 2.49 ml | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | 2-Chloro-4-isopropylamino-6-nitroquinazoline | 870 mg, yield: 67.5% | ClC1=NC2=CC=C(C=C2C(=N1)NC(C)C)[N+](=O)[O-] | C11H11ClN4O2
